US07687503B2
9.2. 2-(methylamino)-2-oxoethyl 4-[6-(2-methylpropyl)-3-pyridyl]-1-piperazinecarboxylate
1.25 g (3.50 mmol) of 2-(methylamino)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate, prepared in step 9.1., and 0.12 g (0.17 mmol) of dichlorobis-(triphenylphosphine)palladium (Pd(PPh3)2Cl2) suspended in 7 ml of tetrahydrofuran are introduced under an inert atmosphere. 17.50 ml (8.74 mmol) of a solution of bromoisobutylzinc (0.5M) in tetrahydrofuran are then added. Stirring is continued at room temperature for 19 hours. The reaction mixture is poured into 25 ml of water and 25 ml of ethyl acetate. The insoluble material is filtered off through glass fiber. The phases are separated by settling, the aqueous phase is extracted twice with ethyl acetate, the combined organic phases are dried over sodium sulfate and the filtrate is concentrated under reduced pressure. The residue thus obtained is purified by chromatography on silica gel, eluting with a 95/5 mixture of dichloromethane and methanol, followed by crystallization from diisopropyl ether. 0.36 g of product is obtained in the form of a brown solid.

reactant | 2-(methylamino)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate | 3.50 mmol, 1.25 g | BrC1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)NC | C13H17BrN4O3
reactant | bromoisobutylzinc | 0.5M | Br[Zn]CC(C)C
reactant | water | 25 ml | O | H2O
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
catalyst | dichlorobis-(triphenylphosphine)palladium | 0.17 mmol, 0.12 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(methylamino)-2-oxoethyl 4-[6-(2-methylpropyl)-3-pyridyl]-1-piperazinecarboxylate | 0.36 g | CC(CC1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)NC)C | C17H26N4O3
